US06242474B1
A solution of 10 ml N,N-dimethylformamide containing 3-fluoro-4-nitrobenzoic acid (1.00 g), N-methyl-2,4-dichlorobenzylamine (1.54 g) and sodium carbonate (1.15 g) was stirred at 100° C. for 14 hours. The reaction mixture was extracted using water and ethyl acetate with stirring. The organic layer was separated and concentrated, and then methanol was added to the resulting residue. After removal of an insoluble material, the solvent was evaporated. The resulting residue was purified by silica-gel column chromatography to give 0.85 g of 3-(N-methyl-2,4-dichlorobenzylamino)-4-nitrobenzoic acid.

reactant | 3-fluoro-4-nitrobenzoic acid | 1.00 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | N-methyl-2,4-dichlorobenzylamine | 1.54 g | CNCC1=C(C=C(C=C1)Cl)Cl | C8H9Cl2N
reactant | sodium carbonate | 1.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(N-methyl-2,4-dichlorobenzylamino)-4-nitrobenzoic acid | 0.85 g | CN(C=1C=C(C(=O)O)C=CC1[N+](=O)[O-])CC1=C(C=C(C=C1)Cl)Cl | C15H12Cl2N2O4
